US06544990B2
N-(4-chlorobenzyl)-1-methyl-6-(morpholin-4-ylmethyl)-4-oxo-8-(pyridin-4-ylethynyl)-1,4-dihydroquinoline-3-carboxamide
A flame-dried flask under an atmosphere of nitrogen gas containing N-(4-chlorobenzyl)-8-iodo-1-methyl-6-(morpholin-4-ylmethyl)-4-oxo-1,4-dihydroquinoline-3-carboxamide (Preparation # 15) (0.28 g) is treated with copper (I) iodide (0.01 g), dichlorobis(triphenylphosphine)palladium (II) (0.03 g) and 3-ethynylpyridine (0.10 g). The solids are treated with dimethylformamide (DMF) (3 ML) and diethylamine (3 mL). The resulting suspension is stirred overnight, concentrated under reduced pressure and finally in vacuo. The residue is flash column chromatographed on silica eluting with 2% to 6% methanol in dichloromethane. The product-containing fractions are combined and concentrated under reduced pressure. The resulting material is crystallized from acetonitrile to afford the title compound (0.23 g) as light yellow needles.

reactant | N-(4-chlorobenzyl)-8-iodo-1-methyl-6-(morpholin-4-ylmethyl)-4-oxo-1,4-dihydroquinoline-3-carboxamide | 0.28 g | ClC1=CC=C(CNC(=O)C2=CN(C3=C(C=C(C=C3C2=O)CN2CCOCC2)I)C)C=C1 | C23H23ClIN3O3
reactant | 3-ethynylpyridine | 0.10 g | C(#C)C=1C=NC=CC1 | C7H5N
reactant | diethylamine | 3 mL | C(C)NCC | C4H11N
catalyst | copper (I) iodide | 0.01 g | [Cu]I
catalyst | dichlorobis(triphenylphosphine)palladium | 0.03 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | N-(4-chlorobenzyl)-1-methyl-6-(morpholin-4-ylmethyl)-4-oxo-8-(pyridin-4-ylethynyl)-1,4-dihydroquinoline-3-carboxamide | 0.23 g | ClC1=CC=C(CNC(=O)C2=CN(C3=C(C=C(C=C3C2=O)CN2CCOCC2)C#CC2=CC=NC=C2)C)C=C1 | C30H27ClN4O3
